US08034953B2
Step 1. 4-Amino-N-(6-chloropyridin-2-yl)-1,2,5-oxadiazole-3-carboxamide
A solution of 4-amino-1,2,5-oxadiazole-3-carboxylic acid (0.4 g, 3.1 mmol) and 6-chloropyridin-2-amine (0.56 g, 4.3 mmol) in N,N-dimethylformamide (6.2 mL) was treated with N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (1.4 g, 3.7 mmol) followed by N,N-diisopropylethylamine (0.76 mL, 4.3 mmol) at 0° C. The reaction mixture was stirred at 25° C. for 2 h, poured into saturated NaHCO3 (50 mL) and extracted with ethyl acetate (100 mL). The organic layer was separated and washed with brine (25 mL), dried with sodium sulfate, filtered, and concentrated to a crude solid. The crude solid was washed with ethyl acetate and filtered. The filtrate was concentrated and purified on silica gel to give the desired product with some impurities. The impurities were removed by washing the solid with chloroform to yield the desired product (65 mg, 9%). LCMS for C8H7ClN5O2 (M+H)+: m/z=240.1.

reactant | 4-amino-1,2,5-oxadiazole-3-carboxylic acid | 3.1 mmol, 0.4 g | NC=1C(=NON1)C(=O)O | C3H3N3O3
reactant | 6-chloropyridin-2-amine | 4.3 mmol, 0.56 g | ClC1=CC=CC(=N1)N | C5H5ClN2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 3.7 mmol, 1.4 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 4.3 mmol, 0.76 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 6.2 mL | CN(C=O)C | C3H7NO
product | 4-Amino-N-(6-chloropyridin-2-yl)-1,2,5-oxadiazole-3-carboxamide | NC=1C(=NON1)C(=O)NC1=NC(=CC=C1)Cl | C8H6ClN5O2
